US08703768B2
6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (3-cyclobutylcarbamoyl-1-methyl-1H-pyrazol-4-yl)-amide
According to the general method described in step 5 of example 27, reaction of cyclobutylamine with 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester provided the title compound (24%) as yellow powder.

reactant | cyclobutylamine | C1(CCC1)N | C4H9N
reactant | 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C19H19N7O3
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (3-cyclobutylcarbamoyl-1-methyl-1H-pyrazol-4-yl)-amide | 24% | C1(CCC1)NC(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C22H24N8O2
